US08114867B2
201.ii. 6-[(S)-3-(tert-butyl-dimethyl-silanyloxy)-2-hydroxy-propylamino]-4H-benzo[1,4]thiazin-3-one
To a solution of tert-butyl-dimethyl-((S)-1-oxiranylmethoxy)-silane (13.0 g, 69 mmol) in acetonitrile (220 mL) was added LiClO4 (22 g, 207 mmol). 6-amino-4H-benzo[1,4]thiazin-3-one (11.4 g, 64 mmol) was added and the mixture was stirred at 50° C. for 6 h. The solvent was removed in vacuo and the residue was chromatographed (DCM/MeOH/NH4OH 1000:25:2→1000:100:2) to afford the title compound as a pale brown foam (11.16 g, 44% yield).

reactant | tert-butyl-dimethyl-((S)-1-oxiranylmethoxy)-silane | 69 mmol, 13.0 g | C(C)(C)(C)[Si](OC[C@H]1OC1)(C)C | C9H20O2Si
reactant | 6-amino-4H-benzo[1,4]thiazin-3-one | 64 mmol, 11.4 g | NC=1C=CC2=C(NC(CS2)=O)C1 | C8H8N2OS
solvent | acetonitrile | 220 mL | C(C)#N | C2H3N
product | 6-[(S)-3-(tert-butyl-dimethyl-silanyloxy)-2-hydroxy-propylamino]-4H-benzo[1,4]thiazin-3-one | 11.16 g, 44% yield | C(C)(C)(C)[Si](OC[C@H](CNC=1C=CC2=C(NC(CS2)=O)C1)O)(C)C | C17H28N2O3SSi
